US07615550B2
1-(3,4-Dichloro-phenyl)-4-[4-(3-Piperidin-1-yl-propoxy)-phenyl] piperazine (E51)
Tris(dibenzylidineacetone) di palladium (0) (5 mol %; 23 mg) was added to a mixture of 1-[4-(3-piperidin-1-yl-propoxy)-phenyl]-piperazine (D11) (150 mg; 0.49 mmol), 3,4-dichloro bromo benzene (160 mg; 1.2 eq), sodium tert-butoxide (71 mg; 1.1 eq) and racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (7.5 mol %; 24 mg) in dry toluene (3 ml). The resulting mixture was heated at reflux under argon for 18 hours. The reaction was allowed to cool to room temperature and diluted with ethyl acetate (10 ml). The resulting solids were removed by filtration and the filtrate evaporated in vacuo. The residue was purified by column chromatography on silica eluting with 3% methanol in dichloromethane to afford the title compound as a buff solid (45 mg)

reactant | 1-[4-(3-piperidin-1-yl-propoxy)-phenyl]-piperazine | 0.49 mmol, 150 mg | N1(CCCCC1)CCCOC1=CC=C(C=C1)N1CCNCC1 | C18H29N3O
reactant | 3,4-dichloro bromo benzene | 160 mg, 1.2 eq | ClC=1C=C(C=CC1Cl)Br | C6H3BrCl2
reactant | sodium tert-butoxide | 71 mg, 1.1 eq | CC(C)([O-])C.[Na+]
reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 24 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 1-(3,4-Dichloro-phenyl)-4-[4-(3-Piperidin-1-yl-propoxy)-phenyl] piperazine | ClC=1C=C(C=CC1Cl)N1CCN(CC1)C1=CC=C(C=C1)OCCCN1CCCCC1 | C24H31Cl2N3O
